US05223536
Trifluoromethyl 4-fluoro-3-phenoxyphenyl ketone may be prepared using the following procedure. Bromination of 2-fluoroanisole yields a mixture of bromo-2-fluoroanisole isomers from which 5-bromo-2-fluoroanisole is isolated. The Grignard reagent of 5-bromo-2-fluoroanisole is then prepared and is in turn reacted with N-methoxy-N-methyl-2,2,2-trifluoroacetamide in tetrahydrofuran, yielding trifluoromethyl 4-fluoro-3-methoxyphenyl ketone. This ketone is protected by formation of the corresponding ketal, which is in turn treated with trimethylsilyl iodide, sodium hydroxide, bromobenzene, and acid, yielding trifluoromethyl (4-fluoro-3-phenoxyphenyl) ketone.

reactant | bromo-2-fluoroanisole | BrC=1C(=C(C=CC1)OC)F | C7H6BrFO
reactant | 5-bromo-2-fluoroanisole | BrC=1C=CC(=C(C1)OC)F | C7H6BrFO
reactant | N-methoxy-N-methyl-2,2,2-trifluoroacetamide | CON(C(C(F)(F)F)=O)C | C4H6F3NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trifluoromethyl 4-fluoro-3-methoxyphenyl ketone | FC1=C(C=C(C=C1)C(=O)C(F)(F)F)OC | C9H6F4O2
